US05545742
Preparation of Methyl 2-[p-(6-amino-5-fluoro-1H-benzotriazol-1-yl)phenoxy]propionate
Concentrated hydrochloric acid (6.3 mL) is added to a solution of methyl 2-[p-(6-acetamido-5-fluoro-1H-benzotriazol-1-yl)phenoxy]propionate (4.77 g, 0.013 mol) in methanol. The reaction mixture is refluxed for 18 hours, cooled to room temperature and concentrated in vacuo to obtain a solid. 1HNMR spectral analysis of the solid indicates that ester hydrolysis has occurred. A solution of the solid, sulfuric acid (4 drops) and methanol is refluxed for 6 hours, cooled to room temperature and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a brown powder which is identified by NMR spectral analyses.

reactant | hydrochloric acid | 6.3 mL | Cl | ClH
reactant | methyl 2-[p-(6-acetamido-5-fluoro-1H-benzotriazol-1-yl)phenoxy]propionate | 0.013 mol, 4.77 g | C(C)(=O)NC=1C(=CC2=C(N(N=N2)C2=CC=C(OC(C(=O)OC)C)C=C2)C1)F | C18H17FN4O4
reactant | water | O | H2O
solvent | methanol | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-[p-(6-amino-5-fluoro-1H-benzotriazol-1-yl)phenoxy]propionate | NC=1C(=CC2=C(N(N=N2)C2=CC=C(OC(C(=O)OC)C)C=C2)C1)F | C16H15FN4O3
